US05547954
One hundred fifty mL of stirred 15% fuming nitric acid is cooled to 5-10° C., and 20.4 grams (0.17 mole) of 3-cyanopyridine N-oxide is added portionwise. Upon completion of addition, the reaction mixture is stirred for about 15 minutes, and then 34.4 grams (0.340 mole) of potassium nitrate is added portionwise. Upon completion of addition, the reaction mixture is warmed to about 100° C. where it is stirred for six hours. The reaction mixture is then poured into about 1000 mL of ice-water. The mixture is stirred until the ice melts, and then the resultant solid is collected by filtration. The solid is dried under reduced pressure at about 100° C., yielding 4-nitro-3-cyanopyridine N-oxide.

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 3-cyanopyridine N-oxide | 0.17 mole, 20.4 grams | C(#N)C=1C=[N+](C=CC1)[O-] | C6H4N2O
reactant | potassium nitrate | 0.340 mole, 34.4 grams | [N+](=O)([O-])[O-].[K+]
product | 4-nitro-3-cyanopyridine N-oxide | [N+](=O)([O-])C1=C(C=[N+](C=C1)[O-])C#N | C6H3N3O3
